US09108981B2
1-(3-Chloro-2-fluorophenyl)-3-iodopropan-1-ol
1-(3-Chloro-2-fluorophenyl)-3-iodopropan-1-one: To a solution of sodium iodide (165 mg, 1.099 mmol) in ACN (1 mL) was added chlorotrimethylsilane (0.139 mL, 1.099 mmol) dropwise. To the mixture was added water (0.016 mL, 0.916 mmol), followed by Intermediate 16B (169 mg, 0.916 mmol) in 1 mL ACN. After 15 min, the reaction mixture was diluted with EtOAc and washed with water followed by 10% Na2S2O3. The organic layer was then washed with brine and dried over MgSO4. The desired product was isolated as a yellow solid (286 mg, 100%). MS (ESI) m/z: 312.9 (M+2+H)+.

reactant | 1-(3-Chloro-2-fluorophenyl)-3-iodopropan-1-one | ClC=1C(=C(C=CC1)C(CCI)=O)F | C9H7ClFIO
reactant | sodium iodide | 1.099 mmol, 165 mg | [I-].[Na+]
reactant | chlorotrimethylsilane | 1.099 mmol, 0.139 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 0.916 mmol, 0.016 mL | O | H2O
solvent | ACN | 1 mL | C(C)#N | C2H3N
solvent | ACN | 1 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-Chloro-2-fluorophenyl)-3-iodopropan-1-ol | ClC=1C(=C(C=CC1)C(CCI)O)F | C9H9ClFIO
